US07723333B2
4-({1-[3-Chloro-5-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}amino)-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
A solution of 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.200 g, 0.700 mmol), TEA (0.106 g, 1.050 mmol) and 1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]piperidin-4-amine (0.294 g, 1.050 mmol) in MeCN (mL) was heated in a microwave reactor at 120° C. for 30 mins. The residue was purified by silica gel column chromatography (Horizons Biotage) using a 1:1 mixture of heptane and EtOAc as eluant, to give the title compound (0.344 g, 93%); 1H NMR (500 MHz, CDCl3): δ 8.34-8.33 (m, 1H), 7.74-7.72 (m, 1H), 7.57-7.54 (m, 2H), 7.49-7.46 (m, 3H), 5.27 (d, 1H), 4.47-4.39 (m, 1H), 3.85-3.78 (m, 2H), 3.24-3.14 (m 1H), 2.55-2.48 (m 2H), 1.82-1.76 (m 2H), 1.60 (d 6H), 1.56-1.48 (m 2H); 13C NMR (125 MHz, CDCl3): δ 160.0, 158.7, 143.1, 136.2, 134.5, 131.8, 130.2, 129.0, 125.3, 121.3, 120.6, 120.3, 107.1, 66.1, 50.3, 47.9, 47.4, 32.4, 20.4; Mass Spectrum: M−H+ 529.

reactant | 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.700 mmol, 0.200 g | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
reactant | 1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]piperidin-4-amine | 1.050 mmol, 0.294 g | ClC=1C(=NC=C(C1)C(F)(F)F)N1CCC(CC1)N | C11H13ClF3N3
solvent | MeCN | CC#N | C2H3N
product | 4-({1-[3-Chloro-5-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}amino)-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.344 g, 93% | ClC=1C(=NC=C(C1)C(F)(F)F)N1CCC(CC1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C23H24ClF3N4O3S
